US07838680B2
Preparation of 4-Methyl-5-(4-methyl-1,3-oxazol-5-yl)-2,4-dihydro-3H-1,2,4-triazole-3-thione
4-Methyl-1,3-oxazole-5-carboxylic acid (commercially available) (12.9 g, 101.5 mmol) was dissolved in DMF (60 mL) and treated with 4-methyl-3-thiosemicarbazide (11.61 g, 1.10 eq). Then DIPEA (31.0 mL, 1.75 eq) was added at 20° C. Under ice bath cooling, T3P 50% w/w in EtOAc (90 mL) was added dropwise, maintaining the temperature below 15° C. over 20 minutes. The resulting mixture was then stirred at 20° C. for 6 hours.

reactant | 4-Methyl-1,3-oxazole-5-carboxylic acid | CC=1N=COC1C(=O)O | C5H5NO3
reactant | 4-methyl-3-thiosemicarbazide | 11.61 g, 1.10 eq | CNC(NN)=S | C2H7N3S
reactant | DIPEA | 31.0 mL, 1.75 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 90 mL | CCOC(=O)C | C4H8O2
product | 4-Methyl-5-(4-methyl-1,3-oxazol-5-yl)-2,4-dihydro-3H-1,2,4-triazole-3-thione | CN1C(NN=C1C1=C(N=CO1)C)=S | C7H8N4OS
